US07951794B2
A solution of 4-(2,3-dihydroxy-propyl)-3,5-dimethyl-benzaldehyde (64 mg, 0.308 mmol) and 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone (50 mg, 0.218 mmol) in ethanol (2 mL) and 5 N HCl in isopropanol (0.5 mL) is stirred at rt for 5 days. The solvent is removed in vacuo and the residue is separated by prep. HPLC. Product containing fractions are treated with sat. aq. NaHCO3 and 3 M aq. NaOH (5 mL). The mixture is stirred at rt for 1 h, then extracted with DCM. The solvent of the organic extract is removed. The residue is dissolved in THF:methanol 1:1 (5 mL) and is treated with Pd/C. The slurry is stirred at it for 16 h under 1.5 bar of H2. The mixture is filtered over celite and the filtrate is evaporated to give 3-[4-(2,3-dihydroxy-propyl)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one (20 mg) as a colourless oil, LC-MS: tR=1.04 min, [M+1]+=423.28.

reactant | 4-(2,3-dihydroxy-propyl)-3,5-dimethyl-benzaldehyde | 0.308 mmol, 64 mg | OC(CC1=C(C=C(C=O)C=C1C)C)CO | C12H16O3
reactant | 1-(5-ethyl-4-phenyl-thiophen-2-yl)-ethanone | 0.218 mmol, 50 mg | C(C)C1=C(C=C(S1)C(C)=O)C1=CC=CC=C1 | C14H14OS
solvent | ethanol | 2 mL | C(C)O | C2H6O
solvent | HCl | 5 N | Cl | ClH
solvent | isopropanol | 0.5 mL | C(C)(C)O | C3H8O
product | 3-[4-(2,3-dihydroxy-propyl)-3,5-dimethyl-phenyl]-1-(5-ethyl-4-phenyl-thiophen-2-yl)-propan-1-one | 20 mg | OC(CC1=C(C=C(C=C1C)CCC(=O)C=1SC(=C(C1)C1=CC=CC=C1)CC)C)CO | C26H30O3S
